US04039670
A mixture of 3 g of 4-chloro-1-(2-methyl-4-fluorophenyl)-1,1-ethylenedioxybutane, 2.3 g. of 4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decane, 1.4 g of anhydrous potassium carbonate, 0.05 g of potassium iodide and 30 ml of dimethylformamide was refluxed for 3 hour. The resulting mixture was poured into ice water. The precipitated crystals were collected by filtration and washed with water to give 8-[4-(2-methyl-4-fluorophenyl)-4,4-ethylenedioxybutyl]-4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decane as crude crystals (5 g).

reactant | 4-chloro-1-(2-methyl-4-fluorophenyl)-1,1-ethylenedioxybutane | 3 g | ClCCCC1(OCCO1)C1=C(C=C(C=C1)F)C | C13H16ClFO2
reactant | 4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decane | O=C1NCN(C12CCNCC2)C2=CC=CC=C2 | C13H17N3O
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.05 g | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 8-[4-(2-methyl-4-fluorophenyl)-4,4-ethylenedioxybutyl]-4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decane | CC1=C(C=CC(=C1)F)C1(CCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)OCCO1 | C26H32FN3O3
